US04348396
Preparation of 2-nitro-5-methylthiobenzoic acid
To a solution of 50 ml. of methyl mercaptan in 200 ml. of dimethylformamide was added 48 g. of sodium hydride portionwise at -40°. On completion of the ensuing reaction, 100.0 g. of 5-chloro-2-nitrobenzoic acid was added. The reaction temperature was allowed to come up to -10°, was lowered back to -40°, and the excess reagent was quenched with 1 N hydrochloric acid. After 2 hours stirring at room temperature, the product was collected, 102.3 g. (97%), mp 165°-169°. Recrystallization from methanolethyl acetate gave 52.14 g., mp. 173°-174°. The analytical sample was obtained from ethyl acetate, mp 174°-175°.

reactant | methyl mercaptan | CS | CH4S
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | sodium hydride | [H-].[Na+]
reactant | 5-chloro-2-nitrobenzoic acid | ClC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C7H4ClNO4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-nitro-5-methylthiobenzoic acid | [N+](=O)([O-])C1=C(C(=S)O)C=C(C=C1)C | C8H7NO3S
